US06872833B2
(+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(3-hydroxy-azetidin-1-yl)-isonicotinamide
From (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and azetidin-3-ol hydrochloride in NMP. [α]D20=+12.2° (c=0.51, DMSO), ES-MS m/e (%): 443 (M+H+, 100).

reactant | (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C18H16BrN3O4S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | azetidin-3-ol hydrochloride | Cl.N1CC(C1)O
reactant | DMSO | CS(=O)C | C2H6OS
solvent | NMP | CN1CCCC1=O | C5H9NO
product | (+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(3-hydroxy-azetidin-1-yl)-isonicotinamide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)N2CC(C2)O)=O)OC | C21H22N4O5S
